US06232290B1
A mixture of methyl 4-[5-[4-(6-methoxy-n-hexyloxy)-phenyl]-1,3,4-thiadiazol-2-yl]benzoate (179.6 g), sodium hydroxide (25.3 g), water (250 ml), methanol (1 L), and tetrahydrofuran (750 ml) was heated under refluxing for 1 hour then cooled to room temperature and poured into water (7 L). The pH of the stirred mixture was adjusted to 2.0 with 6N-hydrochloric acid and the precipitate collected by filtration, washed thoroughly with water, followed by acetonitrile, then dried under hi-vacuum at 50° C. to give 4-[5-[4-(6-methoxy-n-hexyloxy)phenyl]-1,3,4-thiadiazol-2-yl]benzoic acid (167 g) as a yellow powder.

reactant | methyl 4-[5-[4-(6-methoxy-n-hexyloxy)-phenyl]-1,3,4-thiadiazol-2-yl]benzoate | 179.6 g | COCCCCCCOC1=CC=C(C=C1)C1=NN=C(S1)C1=CC=C(C(=O)OC)C=C1 | C23H26N2O4S
reactant | sodium hydroxide | 25.3 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 7 L | O | H2O
solvent | tetrahydrofuran | 750 ml | O1CCCC1 | C4H8O
solvent | methanol | 1 L | CO | CH4O
solvent | water | 250 ml | O | H2O
product | 4-[5-[4-(6-methoxy-n-hexyloxy)phenyl]-1,3,4-thiadiazol-2-yl]benzoic acid | 167 g | COCCCCCCOC1=CC=C(C=C1)C1=NN=C(S1)C1=CC=C(C(=O)O)C=C1 | C22H24N2O4S
